US07932279B2
A solution of 4-[(4,6-bis-benzyloxy-5′isopropyl-2′methoxy-biphenyl-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (6.1 g, 9.2 mmol), PCl5 (2.9 g, 13.8 mmol) and anhydrous dichloromethane (120 ml) was stirred at rt for 4 h. Then the TMSN3 (10.4 ml, 1.7 vols.) was charged and the mixture stirred for a further 7 h. The reaction was quenched very carefully with saturated NaHCO3 solution (100 ml) and stirred a further 1 h. The organics were then split off and aqueous washed with dichloromethane. The combined organics were then washed with brine before being dried (Na2SO4), filtered and evaporated to yield the crude product as a yellow solid. This material was purified using column flash chromatography (SiO2, ethyl acetate/hexanes), yielding 4-[5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-tetrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (3.7 g, 59%). M.p.: 77-81° C.; 400 MHz 1H NMR (DMSO-d) δ: 7.45-7.09 (m, 14H), 6.96 (d, J=6.4 Hz, 1H), 5.26 (s, 2H), 5.23 (s, 2H), 4.45 (br s, 1H), 3.86 (m, 2H), 3.67 (s, 3H), 2.84 (m, 3H), 1.67 (m, 4H), 1.40 (s, 9H), 1.16 (d, J=6.4 Hz, 6H); LCMS: 690 [M+H].

reactant | 4-[(4,6-bis-benzyloxy-5′isopropyl-2′methoxy-biphenyl-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 9.2 mmol, 6.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=C(C(=CC1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=C(C=CC(=C1)C(C)C)OC | C41H48N2O6
reactant | PCl5 | 13.8 mmol, 2.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | TMSN3 | 10.4 ml | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-[5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-tetrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 3.7 g, 59% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=NN=C1C=1C=C(C(=CC1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=C(C=CC(=C1)C(C)C)OC | C41H47N5O5
